US06962890B2
Into a 1 liter reactor thoroughly purged with nitrogen, 66.80 ml of an ether solution containing 200.4 mmol of ethylmagnesium bromide and 100 ml of THF were introduced. To the reactor, a solution containing 43.16 g (190.7 mmol) of 2-t-butyl-4-phenylphenol diluted with 90 ml of a THF was dropwise added at 0° C. over a period of 40 minutes, then the temperature of the system was slowly raised to room temperature, and the reaction solution was stirred at room temperature for 30 minutes. Then, 700 ml of toluene was added, and the system was heated to 100° C. to distill off 52 ml of a mixed solution of ether and THF, whereby an opaque white slurry was obtained. After the slurry was cooled to −20° C., 13.84 g (460.9 mmol) of paraformaldehyde and 38.1 ml (273.4 mmol) of triethylamine were added, followed by stirring at 90° C. for 30 minutes. After ice cooling, the reaction solution was quenched with 133 ml of 18% hydrochloric acid. The organic layer was washed with 300 ml of water, 300 ml of a sodium hydrogencarbonate aqueous solution and 300 ml of a sodium chloride aqueous solution, and then concentrated. The resulting liquid was purified by silica gel column chromatography to obtain 37.73 g (yield: 78%) of 3-t-butyl-5-phenylsalicylaldehyde.

reactant | ethylmagnesium bromide | 200.4 mmol | C(C)[Mg]Br
reactant | 2-t-butyl-4-phenylphenol | 190.7 mmol, 43.16 g | C(C)(C)(C)C1=C(C=CC(=C1)C1=CC=CC=C1)O | C16H18O
reactant | paraformaldehyde | 460.9 mmol, 13.84 g | C=O | CH2O
reactant | triethylamine | 273.4 mmol, 38.1 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | toluene | 700 ml | C1(=CC=CC=C1)C | C7H8
product | 3-t-butyl-5-phenylsalicylaldehyde | 37.73 g, yield: 78% | C(C)(C)(C)C1=C(C(C=O)=CC(=C1)C1=CC=CC=C1)O | C17H18O2
